US04743291
To a stirred mixture of 1.5 g (0.0051 mole) of 1-(4-chloro-2-fluoro-5-hydroxyphenyl)-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one and 0.12 g (0.0051 mole) of sodium hydride in 50 mL of N,N-dimethylformamide was added 0.85 g (0.0051 mole) of methyl 2-bromopropionate. After complete addition the reaction mixture was heated at reflux for two hours, then cooled to room temperature and stirred for approximately 18 hours. The solvent was removed by evaporation under reduced pressure leaving a residue. This residue was partitioned between diethyl ether and water. The organic phase was washed with an aqueous 10% sodium hydroxide solution. The organic phase was dried over anhydrous magnesium sulfate and filtered. The filtrate was evaporated under reduced pressure to yield 1.5 g of methyl 2-[2-chloro-4-fluoro-5-(4-difluoromethyl-4,5-dihydro-3-methyl-5-oxo-1H-1,2,4-triazol-1-yl)phenoxy]propionate as an oil, Compound 3.

reactant | 1-(4-chloro-2-fluoro-5-hydroxyphenyl)-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one | 0.0051 mole, 1.5 g | ClC1=CC(=C(C=C1O)N1N=C(N(C1=O)C(F)F)C)F | C10H7ClF3N3O2
reactant | sodium hydride | 0.0051 mole, 0.12 g | [H-].[Na+]
reactant | methyl 2-bromopropionate | 0.0051 mole, 0.85 g | BrC(C(=O)OC)C | C4H7BrO2
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | methyl 2-[2-chloro-4-fluoro-5-(4-difluoromethyl-4,5-dihydro-3-methyl-5-oxo-1H-1,2,4-triazol-1-yl)phenoxy]propionate | 1.5 g | ClC1=C(OC(C(=O)OC)C)C=C(C(=C1)F)N1N=C(N(C1=O)C(F)F)C | C14H13ClF3N3O4
